US04024308
Dicyclopentadiene Dioxide
Diglycidyl ether of bisphenol A available commercially under the trade designation of Epon 828,

reactant | Diglycidyl ether of bisphenol A | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | Epon 828 | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl
product | Dicyclopentadiene Dioxide | C1C2C3CC4C(C3C1C5C2O5)O4 | C10H12O2
